US04186135
96 g of 6,7-dibromo-8-nitro-1,4-benzodioxane-5-carboxylic acid and 200 ml of thionyl chloride were introduced into a balloon flask provided with an agitator and a thermometer. The mixture was heated under reflux and then the excess thionyl chloride was removed under vacuum. The residue was dissolved in 100 ml of isopropyl ether and then the solvent removed and the product air-dried. 91 g of 6,7-dibromo-8-nitro-1,4-benzodioxane-5-carbonyl chloride were obtained (M.P.: 215° C.; yield: 91%).

reactant | 6,7-dibromo-8-nitro-1,4-benzodioxane-5-carboxylic acid | 96 g | BrC1=C(C2=C(OCCO2)C(=C1Br)[N+](=O)[O-])C(=O)O | C9H5Br2NO6
reactant | thionyl chloride | 200 ml | S(=O)(Cl)Cl | Cl2OS
product | 6,7-dibromo-8-nitro-1,4-benzodioxane-5-carbonyl chloride | 91 g, yield: 91% | BrC1=C(C2=C(OCCO2)C(=C1Br)[N+](=O)[O-])C(=O)Cl | C9H4Br2ClNO5
